* C:\workspace\Projects\HW_SW_development\Doorbell\esp-doorbell-detection\hw\lspice_doorbell_detect_schematic.asc
XU1 N003 N006 N004 0 NC_01 4N25
V1 N001 0 3.3 Rser=0
R1 N003 power 220
V2 power N008 SINE(0 13 50) Rser=1m
S1 N008 N007 N010 N009 Switch1
R2 power N007 60
V3 N010 N009 PULSE(0 5 1 1u 1u 250m)
R3 N001 N004 1.5k
Q1 N002 N005 0 0 BC547C
R4 N005 N004 22k
R5 N001 N002 4k7
D1 N002 GPIO BAT54AHM
C1 GPIO 0 470n
R7 GPIO 0 150k
D2 N007 N006 1N750
R6 N008 0 1G
.model D D
.lib C:\Views\mydocs\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Views\mydocs\LTspiceXVII\lib\cmp\standard.bjt
.tran 2
.model Switch1 SW(Ron=1 Roff=100Meg Vt=.5 Vh=-.4)
.lib 4N25.sub
.backanno
.end
